US06548493B1
tert-butyl (6aS,10aR)-2-(4-methoxy-2-methylphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate
The title compound was prepared by the method of Example 89 step C from tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate (189 mg, 0.5 mmol) and 4-methoxy-2-methylphenylboronic acid (166 mg, 1.0 mmol) to afford after chromatographic purification the title compound (105 mg, 50%). 1H NMR (CDCl3, 300 MHz) δ7.04 (d, 1H, J=8.5 Hz), 6.65-6.79 (m, 4H), 3.75-4.22 (m, 2H), 3.74 (s, 3H), 3.58-3.68 (m, 1H), 3.18-3.42 (m, 4H), 2.76-3.16 (m, 3H), 2.17 (s, 3H), 1.70-1.84 (m, 2H), 1.40 (s, 9H) ppm. MS-ApCI: 421 [M+H+].

reactant | tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate | 0.5 mmol, 189 mg | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 4-methoxy-2-methylphenylboronic acid | 1.0 mmol, 166 mg | COC1=CC(=C(C=C1)B(O)O)C | C8H11BO3
product | tert-butyl (6aS,10aR)-2-(4-methoxy-2-methylphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | COC1=CC(=C(C=C1)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C)C | C26H32N2O3
